US08791107B2
PREPARATION x10: (R)-2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
4-Methylsulphonylbenzyl bromide (121 mg, 0.485 mmol) was added to a mixture of (R)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x3, 100 mg, 0.441 mmol) and potassium tert-butoxide (59.4 mg, 0.529 mmol) in DMSO (2206 μL) at room temperature. The resultant mixture was stirred overnight at room temperature and subsequently diluted with EtOAc and water. The mixture was extracted twice with EtOAc. The combined extracts were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by column chromatography (SiO2, eluting with 0-10% MeOH/CHCl3 gradient) to afford the title compound as an off-white solid (55.9 mg, 32%).

reactant | 4-Methylsulphonylbenzyl bromide | 0.485 mmol, 121 mg | CS(=O)(=O)C1=CC=C(CBr)C=C1 | C8H9BrO2S
reactant | (R)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.441 mmol, 100 mg | ClC1=NC=2N3[C@H](CNC2C=N1)COCC3 | C9H11ClN4O
reactant | potassium tert-butoxide | 0.529 mmol, 59.4 mg | CC(C)([O-])C.[K+]
solvent | DMSO | 2206 μL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | (R)-2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 55.9 mg, 32% | ClC1=NC=2N3[C@H](CN(C2C=N1)CC1=CC=C(C=C1)S(=O)(=O)C)COCC3 | C17H19ClN4O3S
